US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-yl]-2-fluoropropane-1,3-diamine
The title compound was prepared in analogy to Example 56-1 in Scheme 23 by using 2,4-dichloro-6-methylquinazoline, 2-fluoropropane-1,3-diamine and 2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide. MS obsd. (ESI+) [(M+H)+] 430, 1H NMR (400 MHz, CD3OD) δ ppm 8.06-8.04 (d, J=7.6 Hz, 1 H), 7.93 (s, 1 H), 7.81-7.79 (d, J=7.6 Hz, 1 H), 7.69-7.65 (t, J=8 Hz, 2 H), 7.60-7.53 (m, 2 H), 5.32 (s, 2 H), 5.17-5.03 (d, J=28 Hz, 1 H), 4.52 (s, 2 H), 4.20-3.92 (m, 2 H), 3.67 (s, 2 H), 3.47-3.36 (m, 2 H), 2.44 (s, 3 H).

reactant | 2,4-dichloro-6-methylquinazoline | ClC1=NC2=CC=C(C=C2C(=N1)Cl)C | C9H6Cl2N2
reactant | 2-fluoropropane-1,3-diamine | FC(CN)CN | C3H9FN2
reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | S1(CCNCC2=C1C=CC=C2)(=O)=O | C9H11NO2S
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-yl]-2-fluoropropane-1,3-diamine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=N2)NCC(CN)F)C)=O | C21H24FN5O2S
